US05594016
Synthesis of 2-amino-6-(2-pyridylmethyloxy)naphthalene
To a solution of 2-acetylamino-6-(2-pyridylmethyloxy)-naphthalene (0.76 g,) in 2-methoxyethanol (15 ml) was added 1N-hydrochloric acid (15 ml) and the resulting mixture was stirred with heating under reflux for 3 hours. After completion of the reaction, the reaction mixture was cooled to room temperature, made basic with an aqueous solution of sodium hydroxide, and then extracted with ethyl acetate. The organic layer was washed with a saturated saline solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain the title compound (0.65 g) as the crude product. The NMR spectrum is as follows.

reactant | 2-acetylamino-6-(2-pyridylmethyloxy)-naphthalene | 0.76 g | C(C)(=O)NC1=CC2=CC=C(C=C2C=C1)OCC1=NC=CC=C1 | C18H16N2O2
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 2-methoxyethanol | 15 ml | COCCO | C3H8O2
product | 2-amino-6-(2-pyridylmethyloxy)naphthalene | 0.65 g | NC1=CC2=CC=C(C=C2C=C1)OCC1=NC=CC=C1 | C16H14N2O
